US04279887
Solutions of 12.2 g hexylamine and 8.0 g o-iodobenzoyl chloride in a total of 20 ml tetrahydrofuran were reacted for 10 minutes. The tetrahydrofuran was removed by heating on a water bath at 65° for 10 minutes and 50 ml of water were added to precipitate the crude product. The precipitate was recovered as in Example 1 and recrystallized from a benzene/hexane mixture as white crystals, to yield 7.6 g of N-hexyl-o-iodobenzamide, m.p. 104°-105°, Rf 0.78.

reactant | hexylamine | 12.2 g | C(CCCCC)N | C6H15N
reactant | o-iodobenzoyl chloride | 8.0 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-hexyl-o-iodobenzamide | 7.6 g | C(CCCCC)NC(C1=C(C=CC=C1)I)=O | C13H18INO
